US07579473B2
To a round bottom flask equipped with a magnetic stir bar was added 4-(2-Fluoro-4-nitro-phenoxy)-6-methoxy-7-(octahydro-cyclopenta[c]pyrrol-5-ylmethoxy)-quinoline (2.1 g, 3.9 mmol, 1.0 eq.) and acetonitrile/water 1:1 (5 ml, 5 ml). The reaction mixture was then cooled to 0° C. and 37% solution of formaldehyde in water was added (0.2 g, 7.8 mmol, 2.0 eq). While keeping the temperature at 0° C. Na(OAc)3BH was added (4.4 g, 20.7 mmol, 3.0 eq). After 1 hour the pH was adjusted to 10 and the aqueous was extracted 2×DCM (100 ml). Removal of the DCM resulted in a white solid. The compound was further purified with a biotage system using an eluent EtOAc and 5% MeOH, affording 4-(2-Fluoro-4-nitro-phenoxy)-6-methoxy-7-(2-methyl-octahydrocyclopenta[c]pyrrol-5-ylmethoxy)-quinoline (0.9 g, 50% yield).). 1H NMR (400 MHz, CDCl3): 8.57 (d, 1H), 8.14 (dd, 1H), 8.12 (dd, 1H), 7.41 (s, 2H), 7.34 (t, 1H), 6.54 (d, 1H), 4.19 (d, 2H), 4.01 (s, 3H), 2.61 (m, 4H), 2.43 (m, 1H), 2.33 (s, 3H), 2.11 (m, 4H), 1.32 (m, 2H); MS (EI) for C25H26FN3O5: 468 (M+H+).

reactant | 4-(2-Fluoro-4-nitro-phenoxy)-6-methoxy-7-(octahydro-cyclopenta[c]pyrrol-5-ylmethoxy)-quinoline | 3.9 mmol, 2.1 g, 1.0 eq. | FC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OCC2CC3C(CNC3)C2)C=CC(=C1)[N+](=O)[O-] | C24H24FN3O5
reactant | acetonitrile water | 5 ml | C(C)#N.O
reactant | formaldehyde | C=O | CH2O
reactant | Na(OAc)3BH | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | water | O | H2O
product | 4-(2-Fluoro-4-nitro-phenoxy)-6-methoxy-7-(2-methyl-octahydrocyclopenta[c]pyrrol-5-ylmethoxy)-quinoline | 0.9 g, 50% yield | FC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OCC2CC3C(CN(C3)C)C2)C=CC(=C1)[N+](=O)[O-] | C25H26FN3O5
